US07714004B2
Preparation of ((1S)-5-{3-[[2-(4-ethylphenyl)-5-methyl-4-pyrimidinyl](methyl)amino]propoxy}-2,3-dihydro-1H-inden-1-yl)acetic acid
To a solution of ethyl ((1S)-5-{3-[[2-(4-ethylphenyl)-5-methyl-4-pyrimidinyl](methyl)amino]propoxy}-2,3-dihydro-1H-inden-1-yl)acetate (Example 343,140 mg, 0.290 mmol) in a mixture of THF (5 mL), water (5 mL), and EtOH (2.5 mL) was added LiOH (27.5 mg, 1.15 mmol). After vigorously stirring for 24 h, the reaction mixture was acidified to pH ˜5 using HCl (1 N aqueous solution) and extracted with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered, and then concentrated under reduced pressure to give the product (118 mg, 89%) as a white foam. 1H NMR (400 MHz, acetone-d6) δ 1.26 (t, 3H), 1.70-1.76 (m, 1H), 2.18-2.21 (m, 2H), 2.37 (s, 3H), 2.33-2.42 (m, 2H), 2.67-2.85 (m, 5H), 3.28 (s, 3H), 3.44-3.45 (m, 1H), 3.86 (t, 2H), 4.07 (t, 2H), 6.71 (d, 1H), 6.78 (s, 1H), 7.12 (d, 1H), 7.27 (d, 2H), 8.08 (s, 1H), 8.35 (d, 2H); LC-MS: RT=2.53 min, (M+H)+ 460.4.

reactant | ethyl ((1S)-5-{3-[[2-(4-ethylphenyl)-5-methyl-4-pyrimidinyl](methyl)amino]propoxy}-2,3-dihydro-1H-inden-1-yl)acetate | 0.290 mmol, 343,140 mg | C(C)C1=CC=C(C=C1)C1=NC=C(C(=N1)N(CCCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC)C)C | C30H37N3O3
reactant | water | 5 mL | O | H2O
reactant | LiOH | 1.15 mmol, 27.5 mg | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | ((1S)-5-{3-[[2-(4-ethylphenyl)-5-methyl-4-pyrimidinyl](methyl)amino]propoxy}-2,3-dihydro-1H-inden-1-yl)acetic acid | 118 mg, 89% | C(C)C1=CC=C(C=C1)C1=NC=C(C(=N1)N(CCCOC=1C=C2CC[C@H](C2=CC1)CC(=O)O)C)C | C28H33N3O3
